US06713499B2
To a stirred solution of 111 mg (0.40 mmol) 4-methoxy-7-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-benzothiazol-2-ylamine and 0.26 ml (1.50 mmol) N-ethyldiisopropylamine in 20 ml THF at room temperature was added dropwise a solution of 127 mg (0.66 mmol) 2-methyl-isonicotinoyl chloride hydrochloride in 20 ml dichloromethane and stirring continued at room temperature for 24 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (3/97 methanol/ethyl acetate) followed by trituration in ether afforded 142 mg (90%) N-[4-methoxy-7-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-benzothiazol-2-yl]-2-methyl-isonicotinamide as a yellow crystalline solid. ES-MS m/e (%): 419 (M+Na+, 17), 397 (M+H+, 100).

reactant | 4-methoxy-7-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-benzothiazol-2-ylamine | 0.40 mmol, 111 mg | COC1=CC=C(C2=C1N=C(S2)N)N2[C@@H]1CO[C@H](C2)C1 | C13H15N3O2S
reactant | N-ethyldiisopropylamine | 1.50 mmol, 0.26 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methyl-isonicotinoyl chloride hydrochloride | 0.66 mmol, 127 mg | Cl.CC=1C=C(C(=O)Cl)C=CN1
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[4-methoxy-7-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-benzothiazol-2-yl]-2-methyl-isonicotinamide | 142 mg, 90% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)C)=O)N2[C@@H]1CO[C@H](C2)C1 | C20H20N4O3S
